US08685992B2
To a solution of methyl 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoate (1.5 g, 3.41 mmol) dissolved in ethanol (85 ml) and ethyleneglycol dimethyl ether (3.41 ml), 10% NaOH (34.1 ml, aqueous solution) was added dropwise. The resulting mixture was stirred under reflux and the progress of the reaction was monitored by TLC. Upon completion of the reaction, ethanol was removed under reduced pressure and the resulting aqueous solution was cooled to 0° C., neutralized with HCl 6N and extracted with ethyl acetate (3×100 ml). The combined organic layers were dried over Na2SO4 and evaporated under reduced pressure, to obtain 1.26 g of 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid: Yield 88%; m.p. 260° C. (dec); IR 3408, 3268, 1684, 1525, 1496, 1264 cm−1; 1H-NMR (300 MHz, δ ppm, DMSO-d6) 11.57 (s, 1H), 8.00 (t, J=5.9 Hz, 1H), 7.90 (d, J=8.2 Hz, 2H), 7.80 (d, J=7.3 Hz, 2H), 7.46-7.35 (m, 7H), 7.27 (d, J=7.0 Hz, 1H), 6.88 (d, J=8.8 Hz, 2H), 6.67 (d, J=2.2 Hz, 1H), 4.47 (d, J=5.5 Hz, 2H), 3.76 (s, 3H); 13C-NMR (126 MHz, δ ppm, DMSO-d6) 167.1, 160.9, 157.9, 144.8, 133.0, 131.5, 130.1, 129.2, 128.8, 128.5, 128.0, 127.3, 126.7, 124.6, 122.3, 113.1, 108.5, 55.0, 42.0.

reactant | methyl 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoate | 3.41 mmol, 1.5 g | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C27H24N2O4
reactant | NaOH | 34.1 ml | [OH-].[Na+]
solvent | ethanol | 85 ml | C(C)O | C2H6O
solvent | ethyleneglycol dimethyl ether | 3.41 ml | COCCOC | C4H10O2
product | 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid | 1.26 g, Yield 88% | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C(=O)O)C=C1 | C26H22N2O4
